US08703922B2
2-O-(5,9,13,17-tetramethyloctadec-4-enyl)erythritol and water were homogeneously mixed in accordance with the same procedure as in Example 13 to obtain a sample of 2-O-(5,9,13,17-tetramethyloctadec-4-enyl)erythritol/water system. SAXS analysis of the sample of 2-O-(5,9,13,17-tetramethyloctadec-4-enyl)erythritol/water system was performed in the same manner as in Example 13. As a result, at least 4 sharp scattering peaks were observed. The peak value ratio exhibited the following ratio peculiar to the cubic liquid crystal belonging to the crystallographic space group Pn3m: √{square root over (2)}: √{square root over (3)}: √{square root over (4)}: √{square root over (6)}: √{square root over (8)}: √{square root over (9)}.

reactant | 2-O-(5,9,13,17-tetramethyloctadec-4-enyl)erythritol | CC(=CCCCO[C@@H](CO)[C@H](O)CO)CCCC(CCCC(CCCC(C)C)C)C | C26H52O4
solvent | water | O | H2O
product | 2-O-(5,9,13,17-tetramethyloctadec-4-enyl)erythritol water | CC(=CCCCO[C@@H](CO)[C@H](O)CO)CCCC(CCCC(CCCC(C)C)C)C.O | InChI=1S/C26H52O4.H2O/c1-21(2)11-8-13-23(4)15-10-17-24(5)16-9-14-22(3)12-6-7-18-30-26(20-28)25(29)19-27;/h12,21,23-29H,6-11,13-20H2,1-5H3;1H2/t23?,24?,25-,26+;/m1./s1
